US09145415B2
To a solution of 3,3-dimethyl-4-pentyn-1-ol (6.3 g) synthesized according to the method described in Chemistry A European Journal, 2005, 11, pp. 308-320, triphenylphosphine (29.4 g), and phthalimide (16.5 g) in tetrahydrofuran (200 mL), a 2.2 mol/L solution of diethyl azodicarboxylate in toluene (51 mL) was added dropwise under ice cooling, and the mixture was stirred at the same temperature. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. To the obtained residue, ethyl acetate were added, the insoluble matter was removed by filtration, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2-(3,3-dimethyl-4-pentyn-1-yl)isoindoline-1,3-dione (F12, 7.1 g) as pale yellow solid.

reactant | 3,3-dimethyl-4-pentyn-1-ol | 6.3 g | CC(CCO)(C#C)C | C7H12O
reactant | triphenylphosphine | 29.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 16.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | toluene | 51 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(3,3-dimethyl-4-pentyn-1-yl)isoindoline-1,3-dione | 7.1 g | CC(CCN1C(C2=CC=CC=C2C1=O)=O)(C#C)C | C15H15NO2
